US06156794
S-Methyl-N, N-diethyldithiocarbamate sulfoxide (DDTC-Me SO) was prepared from S-Methyl-N, N-diethyldithiocarbamate (DDTC-Me). The synthesis of DDTC-ME was carried out as described by M. D. Faiman et al., Alcoholism, 7, 307 (1983), Sodium metaperiodate (200 mg) (Sigma Chemical Co.) was dissolved in 25 ml of 50:50 MeOH:H2O at 0° C. DDTC-Me (200 mg) was separately dissolved in 2 ml of methanol, and was then cooled to 0° C. before addition to a constantly stirring solution of sodium metaperiodate in MeOH:H2O. The reaction mixture was stirred for 24 hr at 0° C. and then was diluted to 100 ml with cold 0.1 M potassium phosphate buffer (ph 7.4). The resulting colorless solution was then extracted with methylene chloride. The organic layer was treated with activated charcoal, and the charcoal was removed by filtration through a Celite bed. The solvent was removed under reduced pressure to obtain the crude product which was then purified by preparative HPLC (C-18, 5 micron, 150 mm×10 mm column, Alltech) using 30:70 acetonitrile:H2O (acetonitrile, Fisher Scientific, HPLC grade) at a flow rate of 2.5 ml/min. The fractions containing the DDTC-Me SO were pooled and diluted with four times the original volume with water. The diluted pooled fractions were extracted with methylene chloride. The solvent was dried with sodium sulfate and removed under reduced pressure to yield 50 mg of product a colorless oil: 1H NMR (300 MHz, CDCl3) 3.25-3.42 (m, 4H), 2.72 (s, 3H), 1.23 (t, 3H), 1.17 (t, 3H); mass spectroscopy: CIMS (NH3) M/Z, 180 (M+1); IR (neat): 2954, 1668, 1436, 1400, 1317, 1136, 1113, 747 cm-1.

reactant | S-Methyl-N, N-diethyldithiocarbamate | C[SH-]C(N(CC)CC)=S
reactant | DDTC | CCN(CC)C(=S)[S-]
reactant | Sodium metaperiodate | 200 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | H2O | O | H2O
reactant | DDTC-Me | 200 mg | C[SH-]C(N(CC)CC)=S
solvent | MeOH | 25 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
solvent | potassium phosphate | 0.1 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | S-Methyl-N, N-diethyldithiocarbamate sulfoxide | CCN(CC)C(=S)S(=O)C | C6H13NOS2
